US04187216
N-Benzyloxycarbonyl-L-alanyl-L-proline n-pentylamide
2 g (0.06 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline were dissolved in 20 ml of dry tetrahydrofuran and the solution was cooled to -10° C. 0.76 ml (0.06 mol) of N-ethylmorpholine and 0.79 ml (0.006 mol) of isobutyl chloroformate were added and the resulting mixture was stirred at -10° C. for 20 minutes. 0.69 ml (0.006 mol) of n-pentylamine was then added and the resulting solution was stirred at -20° C. for 1 hour and then left to stand at room temperature overnight. The solution was then evaporated to an oil which was dissolved in ethyl acetate. The ethyl acetate solution was washed twice with water, twice with 5% citric acid solution, once with water, twice with 5% sodium bicarbonate solution and twice with water, dried and evaporated to an oil. The desired N-benzyloxycarbonyl-L-alanyl-L-proline n-pentylamide was crystallised from ethyl acetate/petroleum ether in a yield of 1 g (42.8%) and with a melting point of 102°-104° C.

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline | 0.06 mol, 2 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H20N2O5
reactant | N-ethylmorpholine | 0.06 mol, 0.76 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 0.006 mol, 0.79 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | n-pentylamine | 0.006 mol, 0.69 ml | C(CCCC)N | C5H13N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-Benzyloxycarbonyl-L-alanyl-L-proline n-pentylamide | C(CCCC)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C21H31N3O4
